US08809363B2
Methyl-2-[4-iodo-2-methyl-5,6,7,8-tetrahydro[1]benzothieno[2,3-b]pyridine-3-yl]-2-hydroxyacetate
To a stirred suspension of 2-(4-iodo-2-methyl-5,6,7,8-tetrahydro[1]benzothieno[2,3-b]pyridine-3-yl)-2-trimethylsiloxyacetonitrile (Preparation 8, 168.0 g, 369.10 mMol) in methanol (2.5 L) was added concentrated sulphuric acid (410 mL, 7.38 Mol) at 5° C. The mixture was heated to 70° C. and stirred for 36 hours. After allowing the mixture to cool to room temperature, the mixture was diluted with water (1.0 L) and ethyl acetate (2.0 L), and then cooled to 5° C. The pH of the aqueous layer was adjusted to pH 8 by careful addition of 6 M aqueous sodium hydroxide solution. This resulted in the precipitation of solids. The solids were collected by filtration, and the filter-cake was washed with warm water (500 mL) and ethyl acetate (200 mL). The filtrate was saved for further manipulation. The filter-cake was suspended in methanol (500 mL) and stirred vigorously until the solid was free flowing. The solids were collected by filtration and the filter-cake was washed with methanol (2×200 mL) and diethylether (2×200 mL). The resulting solid was dried at 50° C. for 16 hours. This gave the title compound (66.5 g, 43%) as a white solid. The layers of the saved filtrates were separated and the organic layer was concentrated under reduced pressure. The resulting residue was triturated with methanol (100 mL), ethyl acetate (100 mL) and diethylether (100 mL). The resulting solid was collected by filtration and dried at 50° C. for 16 hours. This gave an additional portion of the title compound (38.3 g, 25%) as a white solid.

reactant | 2-(4-iodo-2-methyl-5,6,7,8-tetrahydro[1]benzothieno[2,3-b]pyridine-3-yl)-2-trimethylsiloxyacetonitrile | 369.10 mMol, 168.0 g | IC1=C2C(=NC(=C1C(C#N)O[Si](C)(C)C)C)SC1=C2CCCC1 | C17H21IN2OSSi
reactant | sulphuric acid | 7.38 Mol, 410 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 6 M | [OH-].[Na+]
reactant | ethyl acetate | 2.0 L | C(C)(=O)OCC | C4H8O2
solvent | methanol | 2.5 L | CO | CH4O
solvent | water | 1.0 L | O | H2O
product | Methyl-2-[4-iodo-2-methyl-5,6,7,8-tetrahydro[1]benzothieno[2,3-b]pyridine-3-yl]-2-hydroxyacetate | 66.5 g, 43% | COC(C(O)C=1C(=C2C(=NC1C)SC1=C2CCCC1)I)=O | C15H16INO3S
